US07276606B2
5-Cyclobutanecarbonyl-5H-phenanthridin-6-one was prepared from 5H-phenanthridin-6-one and cyclobutanecarbonyl chloride according to GP 1. Yield, 2%. 1H-NMR (CD3OD): δ=1.95-2.09 (m, 1H), 2.11-2.26 (m, 1H), 2.36-2.55 (m, 4H), 3.64 (ψ-quint, J=8.5 Hz, 1H), 7.32 (“t”, J=7.5 Hz, 1H), 7.37 (“t”, J=7.7 Hz, 1H), 7.47 (“t”, J=7.5 Hz, 1H), 7.53 (“t”, J=7.5 Hz, 1H), 7.70 (d, J=7.5 Hz, 1H), 7.74 (d, J=7.5 Hz, 1H), 7.90 (d, J=7.5 Hz, 1H), 8.22 (d, J=7.7 Hz, 1H); (+)-ESI-MS: m/z=278 [M+H]+, 196 [5H-phenanthridin-6-one+H]+.

reactant | 5H-phenanthridin-6-one | C1=CC=CC=2NC(C3=CC=CC=C3C12)=O | C13H9NO
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
product | 5-Cyclobutanecarbonyl-5H-phenanthridin-6-one | C1(CCC1)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C18H15NO2
